US08563575B2
A mixture of N-1,3-benzoxazol-2-yl-N′-(5-nitropyrimidin-4-yl)benzene-1,4-diamine (54 mg) and 5% palladium on carbon (22 mg, 50% water by weight) in methanol (5 mL) was stirred under an atmosphere of hydrogen (balloon) for 1 h. After this time, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure to afford N4-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyrimidine-4,5-diamine (49 mg) as a brown solid.

reactant | N-1,3-benzoxazol-2-yl-N′-(5-nitropyrimidin-4-yl)benzene-1,4-diamine | 54 mg | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=NC=C2[N+](=O)[O-] | C17H12N6O3
catalyst | palladium on carbon | 22 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | N4-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyrimidine-4,5-diamine | 49 mg | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=NC=C2N | C17H14N6O
